US07482484B2
Step a: 6-hexyl-3-oxoindan-5-yl 1,1,1-trifluoromethanesulfonate
A mixture of 5-hexyl-6-hydroxyindan-1-one (4.5 g, 19.4 mmol) in pyridine (10 ml) is cooled to 10° C., and trifluoromethanesulfonic anhydride (6.01 g, 21.3 mmol) is then slowly added. After stirring for 1 hour at room temperature, the crude reaction product is poured into a mixture of 32% HCl (15 ml) and ice. After extraction with ether, the organic phase obtained is washed with water, dried (Na2SO4) and concentrated. The evaporation residue (7.08 g) is purified by flash chromatography (10/90 ethyl acetate/heptane). 6.57 g of the expected product are obtained (yield: 93%).

reactant | 5-hexyl-6-hydroxyindan-1-one | 19.4 mmol, 4.5 g | C(CCCCC)C=1C=C2CCC(C2=CC1O)=O | C15H20O2
reactant | trifluoromethanesulfonic anhydride | 21.3 mmol, 6.01 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 15 ml | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-hexyl-3-oxoindan-5-yl 1,1,1-trifluoromethanesulfonate | 6.57 g, yield: 93% | FC(S(=O)(=O)OC=1C=C2C(CCC2=CC1CCCCCC)=O)(F)F | C16H19F3O4S
